US04616086
1-(4-Carboxyphenethyl)-4-[2-(4-acetaminophenoxy)-propyl]-piperazine
A mixture of 9.3 g. (18.9 mmole) 1-(4-carboxyphenethyl)-4-[2-(4-aminophenoxy)-propyl]-piperazine trihydrochloride and 50 ml. acetic anhydride is kept for 2 hours at 100° C. and then cooled. The precipitate obtained is filtered off with suction and recrystallised from acetic acid. There are obtained 8.2 g. (87% of theory) of the desired compound in the form of a dihydrochloride; m.p. 234°-235° C.

reactant | 1-(4-carboxyphenethyl)-4-[2-(4-aminophenoxy)-propyl]-piperazine trihydrochloride | 18.9 mmole | Cl.Cl.Cl.C(=O)(O)C1=CC=C(CCN2CCN(CC2)CC(C)OC2=CC=C(C=C2)N)C=C1
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-Carboxyphenethyl)-4-[2-(4-acetaminophenoxy)-propyl]-piperazine | C(=O)(O)C1=CC=C(CCN2CCN(CC2)CC(C)OC2=CC=C(C=C2)NC(=O)C)C=C1 | C24H31N3O4
